US07319108B2
{1-[4-(5-Aminomethyl[1,2,4]oxadiazol-3-yl)phenyl]pyrrolidin-3-yl}dimethylamine
PyBOP (546.4 mg), HOAt (136.1 mg) and triethylamine (0.279 ml) were added to a mixture of 4-(3-dimethylaminopyrrolidin-1-yl)-N-hydroxybenzamidine (248.3 mg), tert-butoxycarbonylaminoacetic acid (175.2 mg) and DMF (2.8 ml) at 0° C. and the mixture was stirred at this temperature for 10 min. It was subsequently stirred at room temperature for 2 h and then ethyl acetate and water were added to the reaction solution. The organic phase then washed twice each with 10% strength citric acid solution, saturated sodium bicarbonate solution and water, dried over sodium sulfate and filtered, and the solvent removed in vacuo. The residue was then taken up in 6.2 ml of THF, and EDC (105 mg) and triethylamine (0.09 ml) were added, and the mixture was stirred at 50° C. for 16 h. Ethyl acetate and water were then added to the reaction solution. The organic phase then washed twice each with 10% strength citric acid solution, saturated sodium bicarbonate solution and water and dried over sodium sulfate, and the solvent removed in vacuo. The crude product was taken up in methylene chloride (9.6 ml), and trifluoroacetic acid (2.3 ml) was added. The reaction was stirred at room temperature for 5 h and then the solvent was removed in vacuo. The residue was purified by preparative HPLC. The product with the molecular weight of 287.37 (C15H21N50) was obtained in this way; MS (ESI): 288.05 (M+H+).

reactant | PyBOP | 546.4 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | HOAt | 136.1 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 4-(3-dimethylaminopyrrolidin-1-yl)-N-hydroxybenzamidine | 248.3 mg | CN(C1CN(CC1)C1=CC=C(C(=N)NO)C=C1)C | C13H20N4O
reactant | tert-butoxycarbonylaminoacetic acid | 175.2 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2.8 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.279 ml | C(C)N(CC)CC | C6H15N
product | {1-[4-(5-Aminomethyl[1,2,4]oxadiazol-3-yl)phenyl]pyrrolidin-3-yl}dimethylamine | NCC1=NC(=NO1)C1=CC=C(C=C1)N1CC(CC1)N(C)C | C15H21N5O
